US06306405B1
Immungenicity of p24gag/sf2 Antigen-Entra)ped Microdarticles with MF59
10 Baboons were divided into two groups (five baboons per group) and administered the formulations specified in Table 1. For Group 1, equal parts of the adjuvant MF59-0, and p24gag/sf2 (in a citrate/Tris buffer) were combined to yield a total of 0.7 ml. The composition was gently mixed and 500 μl (to yield 100 μg p24gag/sf2/dose) of vaccine was injected intramuscularly (IM) in the thigh muscle. For Group 2, 1.5 ml of 2×phosphate buffered saline (PBS) was added to 46.8 mg of the PLG-entrapped p24gag/sf2 formulation produced in Example 1. The material was vortexed for about 30 seconds until all beads were in suspension. 1.5 ml of MF59-0 was added to the resuspended beads to yield a total of 3 ml. The composition was gently mixed and 500 μl (to yield 100 μg p24gag/sf2/dose) of vaccine was injected IM in the thigh muscle.

reactant | citrate Tris | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].C(C(CO)(CO)N)O
reactant | phosphate buffered saline | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
product | MF59 | CC(=CCC/C(=C/CC/C(=C/CC/C=C(/CC/C=C(/CCC=C(C)C)\C)\C)/C)/C)C | C30H50
